US07727988B2
5-o-Tolyl-1H-pyrimidine-2,4-dione (Prep53)
To a solution of 2,4-dimethoxy-5-o-tolyl-pyrimidine (Prep52, 400 mg, 1.7 mmol) in MeOH (10 mL) 2N HClaq (3 mL) was added. After refluxing for 48 hours, the solvents were evaporated. The crude was triturated with ethyl acetate to give 310 mg of the desired product (90% yield) that was used in the next step without further purification.

reactant | 2,4-dimethoxy-5-o-tolyl-pyrimidine | 1.7 mmol, 400 mg | COC1=NC=C(C(=N1)OC)C1=C(C=CC=C1)C | C13H14N2O2
solvent | MeOH | 2N, 10 mL | CO | CH4O
product | 5-o-Tolyl-1H-pyrimidine-2,4-dione | 310 mg, 90% yield | C1(=C(C=CC=C1)C=1C(NC(NC1)=O)=O)C | C11H10N2O2
